* NGSPICE file created from sparx_powdet_sbd_pex.ext - technology: ihp-sg13g2

.subckt sparx_powdet_sbd_pex vout vref vdd rfin vss
X0 vdd vss.t74 cap_cmim l=10u w=10u
X1 vss.t1 dw_8122_3287# vout vss.t13 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X2 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X3 vss.t1 dw_8122_3287# vout vss.t21 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X4 vdd vss.t43 cap_cmim l=10u w=10u
X5 a_8474_1965# vss.t86 cap_cmim l=10u w=10u
X6 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X7 vdd dw_9390_3287# vref vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X8 vss.t1 dw_8122_3287# vout vss.t3 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X9 a_9398_2535# dw_9390_3287# vss schottky_nbl1 l=1.2u w=2.655u
X10 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X11 a_8474_1965# vss.t104 cap_cmim l=10u w=10u
X12 vdd vss.t33 cap_cmim l=10u w=10u
X13 vdd vss.t41 cap_cmim l=10u w=10u
X14 vdd vss.t39 cap_cmim l=10u w=10u
X15 a_8474_1965# vss.t129 cap_cmim l=10u w=10u
X16 vout dw_8122_3287# vss.t1 vss.t12 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X17 a_8474_1965# vss.t84 cap_cmim l=10u w=10u
X18 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X19 vdd vss.t52 cap_cmim l=10u w=10u
X20 vdd vss.t69 cap_cmim l=10u w=10u
X21 a_8474_1965# vss.t112 cap_cmim l=10u w=10u
X22 vout dw_8122_3287# vss.t1 vss.t10 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X23 vdd vss.t57 cap_cmim l=9u w=6.8u
X24 vdd vss.t29 cap_cmim l=10u w=10u
X25 vdd vss.t31 cap_cmim l=10u w=10u
X26 vss.t1 dw_8122_3287# vout vss.t17 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X27 a_8474_1965# vss.t120 cap_cmim l=10u w=10u
X28 a_8474_1965# vss.t118 cap_cmim l=10u w=10u
X29 a_8474_1965# vss.t84 cap_cmim l=10u w=10u
X30 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X31 a_8474_1965# vss.t97 cap_cmim l=10u w=10u
X32 vss.t1 vss.t26 vss.t1 vss.t27 sg13_lv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.13u
X33 vdd vss.t66 cap_cmim l=9u w=6.8u
X34 vdd vss.t37 cap_cmim l=10u w=10u
X35 vdd vss.t48 cap_cmim l=10u w=10u
X36 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X37 vdd vss.t50 cap_cmim l=10u w=10u
X38 a_8474_1965# vss.t74 cap_cmim l=10u w=10u
X39 vss.t1 dw_8122_3287# vout vss.t7 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X40 a_8474_1965# vdd vss.t28 rhigh l=2u w=0.5u
X41 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X42 vout dw_8122_3287# vss.t1 vss.t14 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X43 a_8474_1965# vss.t84 cap_cmim l=10u w=10u
X44 vdd vss.t71 cap_cmim l=10u w=10u
X45 vdd vss.t66 cap_cmim l=10u w=10u
X46 vss.t1 dw_8122_3287# vout vss.t5 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X47 a_8474_1965# vss.t88 cap_cmim l=10u w=10u
X48 vdd vss.t78 cap_cmim l=10u w=10u
X49 a_8474_1965# vss.t112 cap_cmim l=10u w=10u
X50 vref dw_9390_3287# vss.t1 vss.t2 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X51 a_8474_1965# vss.t125 cap_cmim l=10u w=10u
X52 vdd vss.t37 cap_cmim l=10u w=10u
X53 vout dw_8122_3287# vss.t1 vss.t20 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X54 rfin a_8232_3371# cap_cmim l=10u w=10u
X55 dw_9390_3287# vref vss.t23 rppd l=1.5u w=0.5u
X56 vdd vss.t62 cap_cmim l=10u w=10u
X57 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X58 a_9398_2535# a_8474_1965# vss.t83 rsil l=2.5u w=0.5u
X59 vss.t1 dw_8122_3287# vout vss.t19 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X60 a_8474_1965# vss.t106 cap_cmim l=10u w=10u
X61 vdd vss.t37 cap_cmim l=10u w=10u
X62 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X63 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X64 vss.t1 vss.t24 vss.t1 vss.t25 sg13_lv_nmos ad=0.85p pd=5.68u as=0 ps=0 w=2.5u l=0.13u
X65 vdd vss.t80 cap_cmim l=10u w=10u
X66 vdd vss.t76 cap_cmim l=10u w=10u
X67 a_8232_3371# dw_8122_3287# vss schottky_nbl1 l=1.2u w=2.655u
X68 vout dw_8122_3287# vss.t23 rppd l=1.5u w=0.5u
X69 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X70 vss.t1 dw_8122_3287# vout vss.t11 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X71 a_8474_1965# vss.t134 cap_cmim l=10u w=10u
X72 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X73 a_8474_1965# vss.t114 cap_cmim l=10u w=10u
X74 vss.t1 dw_8122_3287# vout vss.t9 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X75 vout dw_8122_3287# vss.t1 vss.t16 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X76 a_8474_1965# vss.t99 cap_cmim l=10u w=10u
X77 a_8474_1965# vss.t101 cap_cmim l=10u w=10u
X78 vdd vss.t64 cap_cmim l=10u w=10u
X79 a_8474_1965# vss.t127 cap_cmim l=10u w=10u
X80 a_8474_1965# vss.t123 cap_cmim l=10u w=10u
X81 vout dw_8122_3287# vss.t1 vss.t22 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X82 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X83 vdd vss.t60 cap_cmim l=10u w=10u
X84 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X85 vout dw_8122_3287# vss.t1 vss.t6 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X86 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X87 a_8474_1965# vss.t92 cap_cmim l=10u w=10u
X88 a_8474_1965# vss.t90 cap_cmim l=10u w=10u
X89 vref dw_9390_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X90 vout dw_8122_3287# vss.t1 vss.t4 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X91 vdd vdd vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=43.4451p ps=0.26832m w=5u l=0.13u
X92 vss.t1 dw_9390_3287# vref vss.t0 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X93 vdd vss.t57 cap_cmim l=10u w=10u
X94 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X95 a_8474_1965# vss.t110 cap_cmim l=10u w=10u
X96 a_8474_1965# vss.t108 cap_cmim l=10u w=10u
X97 vdd vss.t64 cap_cmim l=10u w=10u
X98 a_8474_1965# vss.t132 cap_cmim l=10u w=10u
X99 a_8474_1965# vss.t112 cap_cmim l=10u w=10u
X100 a_8474_1965# vss.t136 cap_cmim l=10u w=10u
X101 vdd vss.t45 cap_cmim l=10u w=10u
X102 vdd vdd vdd vdd sg13_lv_pmos ad=1.7p pd=10.68u as=0 ps=0 w=5u l=0.13u
X103 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X104 vout dw_8122_3287# vss.t1 vss.t18 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X105 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X106 vdd vss.t35 cap_cmim l=10u w=10u
X107 a_8474_1965# vss.t116 cap_cmim l=10u w=10u
X108 a_8232_3371# a_8474_1965# vss.t139 rsil l=2.5u w=0.5u
X109 vdd vss.t64 cap_cmim l=10u w=10u
X110 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X111 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X112 vout dw_8122_3287# vss.t1 vss.t8 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X113 a_8474_1965# vss.t95 cap_cmim l=10u w=10u
X114 vdd vss.t54 cap_cmim l=10u w=10u
X115 vss.t1 dw_8122_3287# vout vss.t15 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
C0 a_8232_3371# a_9398_2035# 0.01213f
C1 dw_8122_3287# a_8474_1965# 0.11747f
C2 vref dw_9390_3287# 0.66034f
C3 a_8474_1965# vdd 5.19837f
C4 a_9398_2535# rfin 0.05177f
C5 a_9398_2535# a_8232_3371# 0.1825f
C6 a_9398_2535# a_9398_2035# 0.02622f
C7 dw_9390_3287# a_8474_1965# 0.06199f
C8 rfin dw_8122_3287# 0.07528f
C9 dw_8122_3287# a_8232_3371# 1.06735f
C10 dw_8122_3287# a_9776_10932# 0.03763f
C11 vref vout 2.97107f
C12 vdd a_9776_10932# 0.0126f
C13 a_9396_10932# vref 0.04195f
C14 rfin dw_9390_3287# 0.0415f
C15 a_8474_1965# a_8474_2035# 0.02075f
C16 dw_9390_3287# a_8232_3371# 0.10207f
C17 a_12042_5026# a_8474_1965# 0.01902f
C18 a_8474_1965# vout 1.11736f
C19 a_9398_2535# dw_9390_3287# 0.54686f
C20 dw_8122_3287# vdd 6.31825f
C21 vref a_8474_1965# 0.19179f
C22 a_8232_3371# a_8474_2035# 0.05211f
C23 dw_9390_3287# dw_8122_3287# 2.48837f
C24 vout a_9776_10932# 0.03993f
C25 dw_9390_3287# vdd 0.73047f
C26 a_9396_10932# a_9776_10932# 0.01274f
C27 rfin a_8474_1965# 0.01614f
C28 a_8474_1965# a_8232_3371# 0.06382f
C29 dw_8122_3287# vout 4.29311f
C30 a_8474_1965# a_9398_2035# 0.02416f
C31 a_12042_5026# vdd 0.0653f
C32 vout vdd 33.1585f
C33 a_9398_2535# a_8474_1965# 0.03586f
C34 vref dw_8122_3287# 0.77553f
C35 dw_9390_3287# vout 0.24433f
C36 vref vdd 2.17332f
C37 a_9396_10932# dw_9390_3287# 0.03652f
C38 rfin a_8232_3371# 1.14761f
R0 vss.n54 vss.t83 5876.96
R1 vss.n51 vss.n50 5537.89
R2 vss.n56 vss.n55 4909.43
R3 vss.t28 vss.n54 3087.21
R4 vss.n50 vss.t139 1588.69
R5 vss.n55 vss.n43 1457.85
R6 vss.t139 vss.n49 931.034
R7 vss.t83 vss.n53 931.034
R8 vss.n43 vss.n2 817.217
R9 vss.n47 vss.n43 735.946
R10 vss.n55 vss.t28 643.895
R11 vss.n51 vss.n10 446.913
R12 vss.n54 vss.n9 446.897
R13 vss.n49 vss.n44 206.898
R14 vss.n53 vss.n44 206.898
R15 vss.n51 vss.n48 198.214
R16 vss.n45 vss.n44 192.857
R17 vss.n12 vss.n8 31.2294
R18 vss.n13 vss.n8 31.2294
R19 vss.n13 vss.n7 31.2294
R20 vss.n14 vss.n7 31.2294
R21 vss.n14 vss.n6 31.2294
R22 vss.n15 vss.n6 31.2294
R23 vss.n15 vss.n5 31.2294
R24 vss.n16 vss.n5 31.2294
R25 vss.n16 vss.n4 31.2294
R26 vss.t0 vss.t2 30.5029
R27 vss.n56 vss.n19 1.96972
R28 vss.n20 vss.n2 1.12193
R29 vss.n25 vss.t22 17.644
R30 vss.n36 vss.t20 17.644
R31 vss.n28 vss.t18 17.644
R32 vss.n37 vss.t16 17.644
R33 vss.t14 vss.n30 17.644
R34 vss.n32 vss.t9 17.644
R35 vss.n41 vss.t7 17.644
R36 vss.t5 vss.n34 17.644
R37 vss.n42 vss.t3 17.644
R38 vss.n17 vss.n10 1.65298
R39 vss.n17 vss.n52 8.50058
R40 vss.n17 vss.n48 17.0005
R41 vss.n10 vss.n45 17.0005
R42 vss.n48 vss.n4 15.6239
R43 vss.n12 vss.n45 15.6061
R44 vss.t23 vss.t11 14.6536
R45 vss.t21 vss.n25 12.8594
R46 vss.n36 vss.t19 12.8594
R47 vss.t17 vss.n28 12.8594
R48 vss.t15 vss.n37 12.8594
R49 vss.t13 vss.n30 12.8594
R50 vss.n40 vss.t12 12.8594
R51 vss.n32 vss.t10 12.8594
R52 vss.n41 vss.t8 12.8594
R53 vss.n34 vss.t6 12.8594
R54 vss.n42 vss.t4 12.8594
R55 vss.t8 vss.n23 12.1076
R56 vss.t6 vss.n33 12.1076
R57 vss.t4 vss.n35 12.1076
R58 vss.n31 vss.t13 12.1071
R59 vss.n38 vss.t15 12.1071
R60 vss.n29 vss.t17 12.1071
R61 vss.t19 vss.n27 12.1071
R62 vss.n26 vss.t21 12.1071
R63 vss.n20 vss.t27 7.01074
R64 vss.t12 vss.n39 12.1071
R65 vss.t10 vss.n24 12.1071
R66 vss.t25 vss.n22 12.1071
R67 vss.n52 vss.n51 10.168
R68 vss.n17 vss.n47 8.501
R69 vss.n2 vss.n42 8.5005
R70 vss.n2 vss.n41 8.5005
R71 vss.n2 vss.n40 8.5005
R72 vss.n2 vss.n37 8.5005
R73 vss.n2 vss.n36 8.5005
R74 vss.n2 vss.n25 8.5005
R75 vss.n2 vss.n28 8.5005
R76 vss.n2 vss.n30 8.5005
R77 vss.n2 vss.n32 8.5005
R78 vss.n2 vss.n34 8.5005
R79 vss.n18 vss.n2 2.71185
R80 vss.n11 vss.n18 0.882582
R81 vss.n38 vss.t14 7.32294
R82 vss.n39 vss.t0 7.32294
R83 vss.t11 vss.n24 7.32294
R84 vss.t3 vss.n22 7.32294
R85 vss.t20 vss.n26 7.32294
R86 vss.t18 vss.n27 7.32294
R87 vss.t16 vss.n29 7.32294
R88 vss.t2 vss.n31 7.32294
R89 vss.n35 vss.t5 7.32242
R90 vss.t7 vss.n33 7.32242
R91 vss.t9 vss.n23 7.32242
R92 vss.n56 vss.n3 1.41971
R93 vss.n49 vss.n17 5.6686
R94 vss.n53 vss.n9 5.66767
R95 vss.n47 vss.n46 4.75145
R96 vss.n52 vss.n46 4.75092
R97 vss.n0 vss.t24 1.17896
R98 vss.n40 vss.t23 2.99093
R99 vss.n2 vss.n22 1.93648
R100 vss.n2 vss.n23 1.93648
R101 vss.n2 vss.n24 1.93648
R102 vss.n2 vss.n39 1.93648
R103 vss.n2 vss.n38 1.93648
R104 vss.n20 vss.t22 8.02612
R105 vss.n2 vss.n26 1.93648
R106 vss.n2 vss.n27 1.93648
R107 vss.n2 vss.n29 1.93648
R108 vss.n2 vss.n31 1.93648
R109 vss.n2 vss.n33 1.93648
R110 vss.n2 vss.n35 1.93648
R111 vss.n10 vss.n46 1.87635
R112 vss.n0 vss.t26 1.38708
R113 vss.n57 vss.t26 1.31765
R114 vss.n50 vss.n17 1.21479
R115 vss.t1 vss.n57 0.714566
R116 vss.n17 vss.n13 0.698466
R117 vss.n17 vss.n14 0.698466
R118 vss.n17 vss.n15 0.698466
R119 vss.n17 vss.n16 0.698466
R120 vss.n10 vss.n4 0.689564
R121 vss.n10 vss.n5 0.689564
R122 vss.n10 vss.n6 0.689564
R123 vss.n10 vss.n7 0.689564
R124 vss.n10 vss.n8 0.689564
R125 vss.n2 vss.n1 0.570224
R126 vss.t1 vss.n1 0.440033
R127 vss.n18 vss.t24 0.622882
R128 vss.n58 vss.t1 0.343357
R129 vss.n11 vss.n1 1.09943
R130 vss.t74 vss.t76 0.19938
R131 vss.n57 vss.n2 0.176427
R132 vss.t86 vss.t88 0.10616
R133 vss.t132 vss.t134 0.10616
R134 vss.t80 vss.t78 0.10616
R135 vss.t35 vss.t33 0.10616
R136 vss.t45 vss.t43 0.09994
R137 vss.t43 vss.t41 0.09994
R138 vss.t33 vss.t31 0.09994
R139 vss.t31 vss.t29 0.09994
R140 vss.t39 vss.t41 0.09994
R141 vss.t101 vss.t39 0.09994
R142 vss.t29 vss.t92 0.09994
R143 vss.t92 vss.t90 0.09994
R144 vss.t101 vss.t99 0.09994
R145 vss.t99 vss.t97 0.09994
R146 vss.t88 vss.t90 0.09994
R147 vss.t97 vss.t95 0.09994
R148 vss.t84 vss.t104 0.09994
R149 vss.t116 vss.t114 0.09994
R150 vss.t106 vss.t108 0.09994
R151 vss.t136 vss.t74 0.09994
R152 vss.t127 vss.t129 0.09994
R153 vss.t120 vss.t118 0.09994
R154 vss.t48 vss.t110 0.09994
R155 vss.t50 vss.t48 0.09994
R156 vss.t50 vss.t52 0.09994
R157 vss.t62 vss.t60 0.09994
R158 vss.t54 vss.t37 0.09994
R159 vss.t62 vss.t64 0.09994
R160 vss.t69 vss.t71 0.09994
R161 vss.t76 vss.t78 0.09994
R162 vss.t69 vss.t66 0.09994
R163 vss.t60 vss.t57 0.09994
R164 vss.t52 vss.t54 0.09994
R165 vss.t108 vss.t110 0.09994
R166 vss.t134 vss.t136 0.09994
R167 vss.t125 vss.t123 0.09994
R168 vss.t112 vss.t114 0.09994
R169 vss.t104 vss.t106 0.09994
R170 vss.n59 vss.t125 0.0707114
R171 vss.n21 vss.t116 0.0707114
R172 vss.t35 vss.t37 0.06216
R173 vss.t86 vss.t84 0.06216
R174 vss.t64 vss.t80 0.06216
R175 vss.t112 vss.t132 0.06216
R176 vss.n2 vss.n0 0.0300302
R177 vss.n21 vss.t118 0.0297286
R178 vss.t127 vss.n59 0.0297286
R179 vss.n59 vss.n58 0.0229314
R180 vss.n58 vss.n21 0.0229314
R181 vss.t45 vss.t54 0.01194
R182 vss.t43 vss.t33 0.01194
R183 vss.t50 vss.t41 0.01194
R184 vss.t31 vss.t41 0.01194
R185 vss.t29 vss.t39 0.01194
R186 vss.t101 vss.t110 0.01194
R187 vss.t92 vss.t101 0.01194
R188 vss.t99 vss.t90 0.01194
R189 vss.t97 vss.t106 0.01194
R190 vss.t97 vss.t88 0.01194
R191 vss.t114 vss.t104 0.01194
R192 vss.t95 vss.t104 0.01194
R193 vss.t116 vss.t125 0.01194
R194 vss.t116 vss.t106 0.01194
R195 vss.t118 vss.t108 0.01194
R196 vss.t99 vss.t108 0.01194
R197 vss.t136 vss.t127 0.01194
R198 vss.t127 vss.t118 0.01194
R199 vss.t129 vss.t74 0.01194
R200 vss.t129 vss.t120 0.01194
R201 vss.t120 vss.t110 0.01194
R202 vss.t48 vss.t39 0.01194
R203 vss.t60 vss.t52 0.01194
R204 vss.t43 vss.t52 0.01194
R205 vss.t71 vss.t62 0.01194
R206 vss.t62 vss.t54 0.01194
R207 vss.t64 vss.t37 0.01194
R208 vss.t78 vss.t69 0.01194
R209 vss.t69 vss.t60 0.01194
R210 vss.t76 vss.t66 0.01194
R211 vss.t57 vss.t66 0.01194
R212 vss.t57 vss.t50 0.01194
R213 vss.t134 vss.t125 0.01194
R214 vss.t123 vss.t114 0.01194
R215 vss.t84 vss.t112 0.01194
R216 vss.n19 vss.t25 19.3164
R217 vss.n17 vss.n12 0.701133
R218 vss.t35 vss.t45 0.00612984
R219 vss.t95 vss.t86 0.00612984
R220 vss.t71 vss.t80 0.00612984
R221 vss.t132 vss.t123 0.00612984
R222 vss.n3 vss.n2 0.00229106
R223 vss.n19 vss.n2 0.0051417
R224 vss.n10 vss.n9 0.00489776
R225 vss.n3 vss.n11 1.97264
R226 vss vss.n0 0.0005
C39 rfin vss 2.00521f
C40 vref vss 4.17184f
C41 vout vss 31.95111f
C42 vdd vss 58.31918f
C43 a_9398_2535# vss 0.91017f ; **FLOATING
C44 a_8232_3371# vss 3.15782f ; **FLOATING
C45 a_8474_1965# vss 57.04807f ; **FLOATING
C46 dw_9390_3287# vss 5.52804f ; **FLOATING
C47 dw_8122_3287# vss 12.49111f ; **FLOATING
.ends
